US09216972B2
Preparation 136A: (E)-1-((dimethylamino)methylene)-6-methoxy-3,4-dihydronaphthalen-2(1H)-one
6-methoxy-3,4-dihydronaphthalen-2(1H)-one (460 mg, 2.61 mmol) was dissolved in N,N-dimethylformamide dimethyl acetal (8 mL, 26.1 mmol) at room temperature. Within 5 minutes the solution had turned dark green in color. Next, p-toluenesulfonic acid (10 mg, 0.053 mmol) was added and the reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure and dried under vacuum to afford the title compound as a dark red oil. LC/MS M+1=232.2. The material was used for subsequent reactions without further purification.

reactant | 6-methoxy-3,4-dihydronaphthalen-2(1H)-one | 2.61 mmol, 460 mg | COC=1C=C2CCC(CC2=CC1)=O | C11H12O2
reactant | N,N-dimethylformamide dimethyl acetal | 26.1 mmol, 8 mL | COC(N(C)C)OC | C5H13NO2
reactant | p-toluenesulfonic acid | 0.053 mmol, 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (E)-1-((dimethylamino)methylene)-6-methoxy-3,4-dihydronaphthalen-2(1H)-one | CN(C)\C=C/1\C(CCC2=CC(=CC=C12)OC)=O | C14H17NO2
